US05488029
2-(2-Chloro-1,1,2-trifluoroethoxy)-benzenesulfonamide
At 25 bis 30° C. and while stirring, 5.9 g (0.093 mol) of 88% strength potassium hydroxide powder was added over a period of 5 minutes to a solution of 28.4 g (0.164 Mol) of 2-hydroxybenzenesulfonamide in 200 ml of acetone. At 40° to 50° C. and while stirring, 29.6 g (0.254 mol) of chlorotrifluoroethylene was gassed in over a period of 12 hours. The precipitate was filtered off under such and washed with acetone. The filtrate was evaporated down under reduced pressure, stirred into 700 ml of water, suction filtered, washed and dried. There was obtained 28.8 g (60.7%) of the title compound of m.p. 113° to 116° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-hydroxybenzenesulfonamide | 0.164 Mol, 28.4 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | chlorotrifluoroethylene | 0.254 mol, 29.6 g | ClC(=C(F)F)F | C2ClF3
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-(2-Chloro-1,1,2-trifluoroethoxy)-benzenesulfonamide | 28.8 g, 60.7% | ClC(C(OC1=C(C=CC=C1)S(=O)(=O)N)(F)F)F | C8H7ClF3NO3S
